US07745484B2
To a solution of 2-bromo-5-(methoxymethoxy)pyridine (30.5 g, 140 mmol) in THF (5 mL) at 0° C. under N2 is added dichloro-((bis-diphenylphosphino)ferrocenyl)-palladium(II) (4.88 g, 5.5 mmol) followed by dropwise addition of neopentylmagnesium chloride (155 mL, 155 mmol) over 2 min. After addition, the cooling bath was removed and the reaction stirred 3 h at rt. The reaction was cooled to 0° C. and saturated NH4Cl (500 mL) was added, and the aqueous layers extracted with EtOAc (3×200 mL). The combined organic layers were washed with saturated NaCl, dried (Na2SO4) and concentrated to give a red oil. Purification by vacuum filtration through a silica plug (9×7 cm, dry load, 10-20%% EtOAc/Hexanes) gives 5-(methoxymethoxy)-2-neopentylpyridine as a light yellow oil.

reactant | 2-bromo-5-(methoxymethoxy)pyridine | 140 mmol, 30.5 g | BrC1=NC=C(C=C1)OCOC | C7H8BrNO2
reactant | neopentylmagnesium chloride | 155 mmol, 155 mL | C(C(C)(C)C)[Mg]Cl
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(methoxymethoxy)-2-neopentylpyridine | COCOC=1C=CC(=NC1)CC(C)(C)C | C12H19NO2
